.include ~/ntnu/2024H/ic/exercises/exercise1/DBSBdiode.mod

Vdd v+ 0 DC 4.8V
D1 anode cathode DSUB
.connect cathode v+
.connect anode 0

.plot I(Vdd)

