.include ..\models\p18_cmos_models_tt.inc

MN1 DRAIN GATE SOURCE BULKN NMOS L=1U W=1U

VGS GATE 0 DC 0.9V
VDS DRAIN SOURCE DC 0
VBS BULK SOURCE DC 0

.DC VDS 0 1.8 0.01

.plot dc i(MN1)
.plot dc gm(MN1)
.plot dc rds(MN1)